US08664401B2
To a solution of ethyl 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoate (118.3 mg, 0.313 mmol) in tetrahydrofuran/methanol/water (4:1:1, 3.13 mL) was added lithium hydroxide monohydrate (26.3 mg, 0.626 mmol). The mixture was stirred at ambient temperature overnight. The mixture was diluted with aqueous HCl (1 N in water) and extracted with ethyl acetate 2×. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated to dryness to afford 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoic acid as a solid. 109.4 mg.

reactant | ethyl 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoate | 0.313 mmol, 118.3 mg | CC(C(=O)OCC)(CCN1C(C(=C(C=C1)C1=CC=CC=C1)C)=O)S(=O)(=O)C | C20H25NO5S
reactant | lithium hydroxide monohydrate | 0.626 mmol, 26.3 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 3.13 mL | O1CCCC1.CO.O
solvent | HCl | 1 N | Cl | ClH
product | 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoic acid | CC(C(=O)O)(CCN1C(C(=C(C=C1)C1=CC=CC=C1)C)=O)S(=O)(=O)C | C18H21NO5S
